US05166367
(S)-7-[3-[[(2,3-Dihydro-6,7-methylenedioxy-1,4-benzodioxin-2-yl)methyl]amino]propoxy]-2H-1-benzopyran-2-one
(S)-2,3-Dihydro-6,7-methylenedioxy-1,4-benzodioxin-2-methanamine hydrochloride (5.50 g, 22.4 mmole), 7-(3-chloropropoxy)coumarin (5.49 g, 23.0 mmole) diisopropylethylamine (39.0 ml, 224 mmol) and sodium iodide (3.45 g, 23.0 mmole) were combined in 200 ml of DMF and heated at 80° C. for 24 hours under a nitrogen atmosphere. The solvent was then removed in vacuum and replaced with chloroform. The mixture was treated with an equal volume of saturated aqueous sodium bicarbonate and the aqueous phase was then back-extracted with 3:1 chloroform-isopropanol. The combined organic extracts were washed with water, dried over anhydrous magnesium sulfate, filtered and concentrated under vacuum. The residue was chromatographed on a silica gel column using dichloromethane as eluant. The product-containing fractions (Rf=0.59 on silica gel tlc with 1:5:95 ammonium hydroxide-methanol-chloroform) were combined and concentrated in vacuum, and the residue redissolved in methanol and acidified with 4N HCl/isopropanol to pH<3 in an ice bath to precipitate a white solid. This was recrystallized from methanol and triturated with a small amount of isopropanol to give 1.50 g of the title compound as an off-white crystalline, solid, monohydrochloride, m.p. 244°-245° C.

reactant | (S)-2,3-Dihydro-6,7-methylenedioxy-1,4-benzodioxin-2-methanamine hydrochloride | 22.4 mmole, 5.50 g | Cl.C1OC2=CC3=C(O[C@H](CO3)CN)C=C2O1
reactant | 7-(3-chloropropoxy)coumarin | 23.0 mmole, 39.0 ml, 5.49 g | ClCCCOC1=CC=C2C=CC(OC2=C1)=O | C12H11ClO3
reactant | sodium iodide | 23.0 mmole, 3.45 g | [I-].[Na+]
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | (S)-7-[3-[[(2,3-Dihydro-6,7-methylenedioxy-1,4-benzodioxin-2-yl)methyl]amino]propoxy]-2H-1-benzopyran-2-one | 1.50 g | C1OC2=CC3=C(O[C@H](CO3)CNCCCOC3=CC4=C(C=CC(O4)=O)C=C3)C=C2O1 | C22H21NO7
